US05334528
In particular, the condensation reaction is a Dieis-Alder addition of hexachlorocyclopentadiene and cyclopentadiene to yield 4,5,6,7,8,8,-hexachloro-3a,4, 7,7a-tetrahydro-4,7-methanoindene which is oxidized with selenium dioxide to 1-exo-hydroxy-4,5,6,7,8,8-hexachloro-3a,4,7,7,a-tetrahydro-4,7-methanoindene. The composition of the heptachlor-hapten was verified by physical analysis.

reactant | hexachlorocyclopentadiene | ClC1(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C5Cl6
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
product | 4,5,6,7,8,8,-hexachloro-3a,4, 7,7a-tetrahydro-4,7-methanoindene | ClC12C3C=CCC3C(C(=C1Cl)Cl)(C2(Cl)Cl)Cl | C10H6Cl6
